US04698337
Conc. hydrochloric acid (0.5 ml.) was added to a solution of 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.1 g.) in methanol (20 ml.) and stirred at room temperature for an hour. After evaporating the solvent in vacuo, methanol was added to the residue and evaporated again. The residue was dried over phosphorus pentoxide in vacuo to give 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 0.89 g.).

reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(3-tert-butoxycarbonylaminopropoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.1 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCCNC(=O)OC(C)(C)C | C26H32N10O8S3
solvent | methanol | 20 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(3-aminopropoxyimino)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dihydrochloride | 0.89 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)=NOCCCN | InChI=1S/C20H24N10O5S3.2ClH/c1-2-5-29-20(25-27-28-29)38-8-10-7-36-17-13(16(32)30(17)14(10)18(33)34)24-15(31)12(26-35-6-3-4-21)11-9-37-19(22)23-11;;/h2,9,13,17H,1,3-8,21H2,(H2,22,23)(H,24,31)(H,33,34);2*1H/t13?,17-;;/m1../s1
